US05240938
Step A: Preparation of methyl 2-(2-chloro-4-methylphenoxy)-2-phenylacetate
To a suspension of 0.282 g (7.04 mmol) of a 60% oil dispersion of sodium hydride in DMF was added 1.00 g (7.04 mmol) of 2-chloro-4-methylphenol and the mixture was stirred under an N2 atmosphere at room temperature. After 10 minutes, a solution of 1.94 g (8.45 mmol) of methyl 2-bromophenylacetate dissolved in 10 mL of DMF was added and the reaction was stirred an additional 1.5 hours. The reaction was then diluted into ethyl acetate, washed with water, dried (MgSO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 4% ethyl acetate/hexane to afford 1.70 g (83%) of the title compound.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-methylphenol | 7.04 mmol, 1.00 g | ClC1=C(C=CC(=C1)C)O | C7H7ClO
reactant | methyl 2-bromophenylacetate | 8.45 mmol, 1.94 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-(2-chloro-4-methylphenoxy)-2-phenylacetate | 1.70 g, 83% | ClC1=C(OC(C(=O)OC)C2=CC=CC=C2)C=CC(=C1)C | C16H15ClO3
